US09120785B2
Isopropylmagnesium chloride lithium chloride (1.3 M in tetrahydrofuran, 0.6 mL, 0.780 mmol) was added dropwise at room temperature to a flask containing a solution of thiazole (0.050 mL, 0.705 mmol) in tetrahydrofuran (5 mL) with a water bath around the flask. After 40 min, tert-butyl 3-acetylpyrrolidine-1-carboxylate (160 mg, 0.750 mmol) in tetrahydrofuran (5 mL) was added dropwise. After stirring at room temperature for 35 min, the mixture was diluted with saturated aqueous ammonium chloride and extracted with ethyl acetate. The organic phase was washed with water and brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (0-60% ethyl acetate/hexane) to afford tert-butyl 3-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]pyrrolidine-1-carboxylate as a 1:1 mix of diastereomers. 1H NMR (500 MHz, CDCl3) δ 7.69-7.55 (m, 1H, two sets of doublets overlap from two diastereomers), 7.23-7.14 (m, 1H, two sets of doublets overlap from two diastereomers), 3.59-2.98 (m, 4H), 2.80-2.60 (m, 1H), 1.98-1.70 (m, 2H), 1.59 (s, 3H), 1.45-1.30 (m, 9H, two sets of peaks overlap from two diastereomers).

reactant | Isopropylmagnesium chloride lithium chloride | 0.780 mmol, 1.3 M, 0.6 mL | [Cl-].[Li+].C(C)(C)[Mg]Cl
reactant | thiazole | 0.705 mmol, 0.050 mL | S1C=NC=C1 | C3H3NS
reactant | tert-butyl 3-acetylpyrrolidine-1-carboxylate | 0.750 mmol, 160 mg | C(C)(=O)C1CN(CC1)C(=O)OC(C)(C)C | C11H19NO3
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | tert-butyl 3-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]pyrrolidine-1-carboxylate | OC(C)(C=1SC=CN1)C1CN(CC1)C(=O)OC(C)(C)C | C14H22N2O3S
